US05767131
A solution of 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester (15.06 g, 52.3 mmol) and benzyl 3-amino-crotonate (10.00 g, 52.3 mmol) in 150 ml of EtOH was refluxed for 36 hrs. After solvent was evaporated, the residue was dissolved in 250 ml of CHCl3, washed with water (2×100 ml) and dried over Na2SO4. After filtration and evaporation of solvent, 3-benzyloxycarbonyl-5-(2-cyanoethoxy)carbonyl-1,4-dihydro-2,6-dimethyl-4-(4-nitrophenyl)pyridine was obtained as a yellow oil (23.4 g, 97%).

reactant | 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester | 52.3 mmol, 15.06 g | C(#N)CCOC(C(C(C)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O5
reactant | benzyl 3-amino-crotonate | 52.3 mmol, 10.00 g | N\C(=C/C(=O)OCC1=CC=CC=C1)\C | C11H13NO2
solvent | EtOH | 150 ml | CCO | C2H6O
product | 3-benzyloxycarbonyl-5-(2-cyanoethoxy)carbonyl-1,4-dihydro-2,6-dimethyl-4-(4-nitrophenyl)pyridine | C(C1=CC=CC=C1)OC(=O)C1=C(NC(=C(C1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OCCC#N)C)C | C25H23N3O6
